US07501414B2
2-Chloro-6-trifluoromethyl-benzene-1,4-diamine
Acetic acid (13 mL) was added slowly to a mixture of zinc dust (12.4 g) and 2-chloro-4-nitro-6-trifluoromethyl-phenylamine (4 g) in tetrahydrofuran (40 mL). The reaction mixture was stirred for 1 hour, filtered through silica and concentrated in vacuo. The crude product was purified by flash chromatography to furnish 2.9 g (83%) of the title compound as a black solid. 1H NMR (500 MHz, CDCl3): 3.44 (b, 2H), 4.16 (b, 2H), 6.77 (d, 1H), 6.86 (d, 1H).

reactant | Acetic acid | 13 mL | C(C)(=O)O | C2H4O2
reactant | 2-chloro-4-nitro-6-trifluoromethyl-phenylamine | 4 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)N | C7H4ClF3N2O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 12.4 g | [Zn] | Zn
product | 2-Chloro-6-trifluoromethyl-benzene-1,4-diamine | 2.9 g, 83% | ClC1=C(C(=CC(=C1)N)C(F)(F)F)N | C7H6ClF3N2
